US09315489B2
2-Chloro-5′-fluoro-N-(4-(trifluoromethoxy)phenyl)-[3,3′-bipyridine]-5-carboxamide
The title compound was prepared in an analogous fashion to that described in Example 56 using 6-chloro-5-iodo-N-(4-(trifluoromethoxy)phenyl)nicotinamide and 3-fluoropyridine-5-boronic acid pinacol ester to afford the title product as a beige solid. UPLC-MS (Condition 2) tR=1.13 min, m/z=412 [M+H]+; 1H-NMR (400 MHz, DMSO-d6) δ ppm 7.39 (d, J=8.99 Hz, 2H) 7.85 (d, J=8.99 Hz, 2H) 8.02-8.12 (m, 1H) 8.49 (d, J=2.35 Hz, 1H) 8.64-8.76 (m, 2H) 8.99 (dd, J=2.35, 0.78 Hz, 1H) 10.65 (s, 1H).

reactant | 6-chloro-5-iodo-N-(4-(trifluoromethoxy)phenyl)nicotinamide | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=C1I | C13H7ClF3IN2O2
reactant | 3-fluoropyridine-5-boronic acid pinacol ester | FC=1C=NC=C(C1)B1OC(C)(C)C(C)(C)O1 | C11H15BFNO2
product | 2-Chloro-5′-fluoro-N-(4-(trifluoromethoxy)phenyl)-[3,3′-bipyridine]-5-carboxamide | ClC1=NC=C(C=C1C=1C=NC=C(C1)F)C(=O)NC1=CC=C(C=C1)OC(F)(F)F | C18H10ClF4N3O2
